US04587331
A mixture of 2.0 g of glucosamine hydrochloride, 5 ml of methanol and 5 ml of hydrazine hydrate was stirred overnight and then evaporated to dryness giving 2-amino-2-deoxy-D-glucose hydrazone.

reactant | glucosamine hydrochloride | 2.0 g | Cl.OC1[C@H](N)[C@@H](O)[C@H](O)[C@H](O1)CO
reactant | hydrazine hydrate | 5 ml | O.NN
solvent | methanol | 5 ml | CO | CH4O
product | 2-amino-2-deoxy-D-glucose hydrazone | N[C@@H](C=NN)[C@@H](O)[C@H](O)[C@H](O)CO | C6H15N3O4
